US07897762B2
Phenyl hydrazine and 4,4-dimethyl-3-oxopentanenitrile were combined according to literature procedures to yield 3-tert-butyl-1-phenyl-1H-pyrazol-5-amine. See WO 2006/071940.

reactant | Phenyl hydrazine | C1(=CC=CC=C1)NN | C6H8N2
reactant | 4,4-dimethyl-3-oxopentanenitrile | CC(C(CC#N)=O)(C)C | C7H11NO
product | 3-tert-butyl-1-phenyl-1H-pyrazol-5-amine | C(C)(C)(C)C1=NN(C(=C1)N)C1=CC=CC=C1 | C13H17N3
